US07262196B2
KHMDS (30.9 mL of a 1 mmol mL−1 solution in THF, 30.9 mmol) was added to a stirred solution of (6-chloropyridin-3-yl)acetonitrile (4.40 g, 28.9 mmol) in anhydrous THF-HMPA (3:1, 72 mL) at −78° C. After 30 min, iodomethylcyclopentane (1.46 g, 6.9 mmol) was added. The solution was stirred at −78° C. for 4.5 h, before being allowed to warm to 20° C. over 16 h. The reaction mixture was carefully quenched with saturated aqueous NH4Cl (20 mL), then H2O (100 mL) was added. The mixture was extracted with EtOAc (3×50 mL), then the extracts were dried (Na2SO4). Filtration, solvent evaporation, and column chromatography (n-C6H14-EtOAc) furnished 2-(6-chloropyridin-3-yl)-3-cyclopentylpropionitrile: m/z (ES+)=235.1 [M+H]+. Step 2: This compound (2.30 g, 9.8 mmol) was heated with 50% aqueous H2SO4 (10 mL) at 130° C. for 2 h with stirring. The mixture was allowed to cool down to 20° C. over 16 h, before being neutralised with saturated aqueous Na2CO3 and extracted with CHCl3. The organic extracts were dried (Na2SO4), before being filtered and concentrated to give the title compound: m/z (ES+)=254.2 [M+H]+.

reactant | KHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | (6-chloropyridin-3-yl)acetonitrile | 28.9 mmol, 4.40 g | ClC1=CC=C(C=N1)CC#N | C7H5ClN2
reactant | iodomethylcyclopentane | 6.9 mmol, 1.46 g | ICC1CCCC1 | C6H11I
solvent | THF | C1CCOC1 | C4H8O
solvent | THF HMPA | 72 mL | C1CCOC1.CN(C)P(=O)(N(C)C)N(C)C
product | 2-(6-chloropyridin-3-yl)-3-cyclopentylpropionitrile | ClC1=CC=C(C=N1)C(C#N)CC1CCCC1 | C13H15ClN2
